US07491713B2
Step A: tert-Butyl (2S,6S)-4-(cyclopropylmethyl)-1,1-dioxido-5-oxo-2-phenyl-1,4-thiazepan-6-ylcarbamate
Oxone (488 mg, 0.80 mmol) was added to a solution of tert-butyl (2S,6S)-4-(cyclopropylmethyl)-5-oxo-2-phenyl-1,4-thiazepan-6-ylcarbamate (60 mg, 0.16 mmol) in methanol (7.5 mL) and water (7.5 mL). After 18 h, water was added. The mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated to give the title compound (63 mg).

reactant | Oxone | 0.80 mmol, 488 mg | OOS(=O)[O-].[K+]
reactant | tert-butyl (2S,6S)-4-(cyclopropylmethyl)-5-oxo-2-phenyl-1,4-thiazepan-6-ylcarbamate | 0.16 mmol, 60 mg | C1(CC1)CN1C[C@@H](SC[C@H](C1=O)NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C20H28N2O3S
solvent | methanol | 7.5 mL | CO | CH4O
solvent | water | 7.5 mL | O | H2O
product | tert-Butyl (2S,6S)-4-(cyclopropylmethyl)-1,1-dioxido-5-oxo-2-phenyl-1,4-thiazepan-6-ylcarbamate | 63 mg | C1(CC1)CN1C[C@@H](S(C[C@H](C1=O)NC(OC(C)(C)C)=O)(=O)=O)C1=CC=CC=C1 | C20H28N2O5S
